US09303007B2
TFA (2 mL, 26.0 mmol) was added to a solution of a TFA salt of (1R,3S,5R)-tert-butyl 3-(6-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (150 mg) in DCM and the mixture was stirred for 2 h at rt. The volatiles were removed under vacuum and the residue was taken in MeOH (15 mL), filtered through a Strata XC MCX cartridge (1 g) and washed with methanol. The compound was release from the cartridge by washing the column with a solution of 2M of ammonia/methanol (20 mL) and concentrated to give methyl (S)-2-((1R,3S,5R)-3-(5-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-benzo[d]imidazol-6-yl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate (100 mg, 0.149 mmol) as white solid. LC-MS retention time 1.772 min; m/z 670.36 (M−H+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/10 mM ammonium acetate and solvent and Solvent B was 10% water/90% methanol/10 mM ammonium acetate and solvent. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (TFA salt, 500 MHz, MeOD) δ ppm 8.28 (s, 1H), 8.24 (s, 1H), 8.13 (d, J=8.9 Hz, 1H), 8.05-8.10 (m, 1H), 8.03 (s, 1H), 7.96-8.00 (m, 2H), 7.84 (dd, J=8.7, 1.7 Hz, 1H), 7.75-7.82 (m, 2H), 5.16 (dd, J=9.2, 7.3 Hz, 1H), 4.84-4.88 (partially shaded by MeOD, m, 1H), 4.62 (d, J=7.6 Hz, 1H), 3.91-4.01 (m, 2H), 3.84-3.89 (m, 1H), 3.66-3.76 (m, 3H), 3.51-3.56 (m, 1H), 3.35-3.46 (m, 2H), 2.82 (dd, J=12.8, 7.3 Hz, 1H), 2.73 (dd, J=13.7, 9.2 Hz, 1H), 2.61 (td, J=12.0, 4.7 Hz, 1H), 2.53 (ddd, J=13.8, 6.8, 6.6 Hz, 1H), 2.06-2.16 (m, 3H), 1.58-1.64 (m, 1H), 1.44-1.57 (m, 3H), 1.23-1.30 (m, 1H), 1.08-1.16 (m, 1H), 1.05 (q, J=7.8 Hz, 1H), 0.88-0.93 (m, 1H).

reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (1R,3S,5R)-tert-butyl 3-(6-(6-(2-((1R,3S,5R)-2-((S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetyl)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 150 mg | COC(=O)N[C@H](C(=O)N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C1CCOCC1 | C44H49N7O6
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (S)-2-((1R,3S,5R)-3-(5-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hexan-3-yl)-1H-benzo[d]imidazol-6-yl)naphthalen-2-yl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate | 0.149 mmol, 100 mg | [C@@H]12N[C@@H](C[C@H]2C1)C1=NC2=C(N1)C=C(C=C2)C=2C=C1C=CC(=CC1=CC2)C2=CN=C(N2)[C@H]2N([C@@H]1C[C@@H]1C2)C([C@H](C2CCOCC2)NC(OC)=O)=O | C39H41N7O4
